US07968570B2
A mixture of 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester (0.684 g, 2.00 mmol), 2M THF solution of ethyl amine (1.3 mL, 2.6 mmol), and K2CO3 (0.552 g, 4.0 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-bromo-7-chloro-2-ethyl-2,3-dihydro-isoindol-1-one (0.203 g, 37%). GC-MS: m/z 275 (M)+, 258 (M−27)+. 1H NMR (300 MHz, CDCl3): δ (ppm) 1.24 (t, 3H), 3.64 (q, 2H) 4.34 (s, 2H), 7.50 (s, 1H), 7.58 (s, 1H).

reactant | 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester | 2.00 mmol, 0.684 g | COC(C1=C(C=C(C=C1Cl)Br)CBr)=O | C9H7Br2ClO2
reactant | THF | 2M | C1CCOC1 | C4H8O
reactant | ethyl amine | 2.6 mmol, 1.3 mL | C(C)N | C2H7N
reactant | K2CO3 | 4.0 mmol, 0.552 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-7-chloro-2-ethyl-2,3-dihydro-isoindol-1-one | 0.203 g, 37% | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC | C10H9BrClNO
